US06117841
A vessel containing 100 g of L-Leucine, 1600 mL of ethanol, 8 g of 2% Pd/C, and 131.5 g of isovaleraldehyde was shaken under hydrogen. After the reaction was finished, the ethanol solution was collected by filtration. Then 300 mL of concentrated HCl was added to the Pd/C-compound mixture, and the mixture was filtered again to give the second filtrate. The second filtration provided the product in concentrated HCl, and it was added NaOH to pH 6.5. The product precipitated out as a white solid, and it was collected by filtration. The crude product was washed with water (200 mL) and acetone (300 mL), then it was dried under vacuum to yield N-(2-methylbutyl)-leucine (50 g); mp 275° C. (dec.).

reactant | L-Leucine | 100 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | isovaleraldehyde | 131.5 g | C(CC(C)C)=O | C5H10O
reactant | NaOH | [OH-].[Na+]
catalyst | Pd/C | 8 g | [Pd] | Pd
solvent | ethanol | 1600 mL | C(C)O | C2H6O
product | N-(2-methylbutyl)-leucine | 50 g | CC(CN[C@@H](CC(C)C)C(=O)O)CC | C11H23NO2
